US08809525B2
3-(Methylsulfanyl)-5-(3-methoxyphenyl)-1,2,4-triazine (1.01 g, 79%) was prepared from methyl hydrazinecarbimidothioate (0.58 g, 5.50 mmol) and 3-methoxyphenylglyoxal monohydrate (1.00 g, 5.50 mmol) according to the general procedure of Preparation 2.

reactant | methyl hydrazinecarbimidothioate | 5.50 mmol, 0.58 g | N(N)C(=N)SC | C2H7N3S
reactant | 3-methoxyphenylglyoxal monohydrate | 5.50 mmol, 1.00 g | O.COC=1C=C(C=CC1)C(=O)C=O
product | 3-(Methylsulfanyl)-5-(3-methoxyphenyl)-1,2,4-triazine | 1.01 g, 79% | CSC=1N=NC=C(N1)C1=CC(=CC=C1)OC | C11H11N3OS
